US07820675B2
3-Tributylstannanyl-1-aza-bicyclo[2.2.2]oct-2-ene (2.14 g, 5.36 mmol; prepared according to Bioorg. Med. Chem. Lett. 1994, 4, 2837-2840) was added to a mixture of 7-iodo-5-nitro-benzofuran (0.52 g, 1.79 mmol), Pd(PPh3)4 (0.206 g, 0.17 mmol) in DMF (10 mL). The mixture was heated at 160° C. for 10 min in a sealed reaction vessel using controlled microwave energy. The reaction mixture was diluted with CHCl3 and then filtered through a pad of Celite and concentrated under reduced pressure. The residue was purified by repetitive chromatography on silica using gradient elution, (CHCl3→CHCl3+10% MeOH+0.4% NH3) followed by CHCl3+10% MeOH+0.4% NH3 to give 399.5 mg of 3-(5-nitro-benzofuran-7-yl)-1-aza-bicyclo[2.2.2]oct-2-ene. This intermediate was dissolved in a solvent system of EtOH:THF (4:1; 20 mL) and Raney-Ni (˜1.0 mL suspension in EtOH) was added followed by hydrazine monohydrate (6 equiv). The mixtures are stirred vigorously for 3 h and then filtered through Celite pre-treated with water. The filtrate was concentrated, followed by the addition of toluene and re-evaporation to yield 340 mg of the crude intermediate (7-(1-aza-bicyclo[2.2.2]oct-2-en-3-yl)-benzofuran-5-ylamine). Most of this material (325 mg; 1.35 mmol) was dissolved in DCM (5 mL). Pyridine (1.05 mL) was added followed by 2-methoxy-5-methyl-benzenesulfonyl chloride (267 mg, 1.20 mmol). The resultant mixture was stirred at room temperature for 16 h and then concentrated under reduced pressure. The residue was purified by column chromatography on silica using gradient elution (CHCl3→CHCl3+10% MeOH+0.4% NH3) to give 230 mg of the free base of the title compound. The free base was dissolved in MeOH and 1 M HCl in ether was added to the solution. More ether was added and the precipitate was collected by filtration to give 182 mg of the HCl-salt. The product was dissolved in CH3CN:MeOH (2:1) and then purified by preparative reversed phase HPLC. The pure HPLC fractions was pooled and then concentrated to give the TFA-salt of the final product. The TFA-salt was converted to the HCl-salt: yield 100 mg of N-[7-(1-aza-bicyclo[2.2.2]oct-2-en-3-yl)-benzofuran-5-yl]-2-methoxy-5-methyl-benzenesulfonamide hydrochloride; 1H NMR (270 MHz, DMSO-d6) δ ppm 1.57-1.76 (m, 2H), 2.00-2.20 (m, 3H), 2.21 (s, 3H), 3.00-3.17 (m, 2H), 3.27-3.66 (m, obscured in part by solvent signal, 3H), 3.86 (s, 3H), 6.99-7.09 (m, 2H), 7.20-7.42 (m, 4H), 7.53-7.60 (m, 1H), 8.05-8.10 (m, 1H), 9.98 (m, s, 1H); GC-MS (EI+) for C23H24N2O4S m/z 425 (M)+.

reactant | 3-Tributylstannanyl-1-aza-bicyclo[2.2.2]oct-2-ene | 5.36 mmol, 2.14 g | C(CCC)[Sn](C1=CN2CCC1CC2)(CCCC)CCCC
reactant | 7-iodo-5-nitro-benzofuran | 1.79 mmol, 0.52 g | IC1=CC(=CC=2C=COC21)[N+](=O)[O-] | C8H4INO3
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
catalyst | Pd(PPh3)4 | 0.17 mmol, 0.206 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(5-nitro-benzofuran-7-yl)-1-aza-bicyclo[2.2.2]oct-2-ene | 399.5 mg | [N+](=O)([O-])C=1C=C(C2=C(C=CO2)C1)C1=CN2CCC1CC2 | C15H14N2O3
